US09085555B2
(1R,3S,5R)-2-{2-[3-Acetyl-6-(1H-tetrazol-5-ylmethoxy)-indol-1-yl]-acetyl}-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide
A solution of (1R,3S,5R)-2-[2-(3-Acetyl-6-hydroxy-indol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]-hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide Example 584 (80.0 mg, 0.165 mmol) in DMSO (2 mL) was treated with cesium carbonate (162 mg, 0.496 mmol). After stirring at RT for 5 min, 5-(chloromethyl)-1H-tetrazole (21.0 mg, 0.174 mmol) was added and stirring was continued at RT for 36 h. The mixture was neutralised by addition of 1N HCl, diluted with water extracted with EtOAc (2×). The combined organic layers were washed with water (2×) and brine. The resulting suspension was filtered over phase separator and concentrated. The filtered solid was triturated with methanol, decanted and dried in vacuo to give the title compound. The filtrate was purified by preparative HPLC (Macherey-Nagel Nucleosil 100-10 C18, 5 μm, 40×250 mm, flow: 40 mL/min, eluent: 20-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA) to afford after lyophilization of the purified fractions a second batch of the title compound as a white solid. MS (LC/MS): 566 [M+H]+; tR (HPLC conditions k): 3.22 min.

reactant | (1R,3S,5R)-2-[2-(3-Acetyl-6-hydroxy-indol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]-hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N([C@@H]3C[C@@H]3C2)C(CN2C=C(C3=CC=C(C=C23)O)C(C)=O)=O)C=CC1)F | C25H23ClFN3O4
reactant | cesium carbonate | 0.496 mmol, 162 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-(chloromethyl)-1H-tetrazole | 0.174 mmol, 21.0 mg | ClCC1=NN=NN1 | C2H3ClN4
reactant | HCl | 1N | Cl | ClH
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (1R,3S,5R)-2-{2-[3-Acetyl-6-(1H-tetrazol-5-ylmethoxy)-indol-1-yl]-acetyl}-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N([C@@H]3C[C@@H]3C2)C(CN2C=C(C3=CC=C(C=C23)OCC2=NN=NN2)C(C)=O)=O)C=CC1)F | C27H25ClFN7O4
